US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoyl]-1,2,3,4-tetrahydroquinoline
1,2,3,4-Tetrahydroquinoline (0.126 g, 0.946 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.272 g, 1.42 mmol) were added to a methylene chloride solution (20 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoic acid (0.200 g, 0.473 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=9:1) to obtain the titled compound (0.100 g, 0.186 mmol, 39%).

reactant | 1,2,3,4-Tetrahydroquinoline | 0.946 mmol, 0.126 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.42 mmol, 0.272 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoic acid | 0.473 mmol, 0.200 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OCC=1C=NC=CC1)C)=O | C23H21NO7
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.186 mmol, 0.100 g, 39% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCCC3=CC=CC=C23)C1)OCC=1C=NC=CC1)C)=O | C32H30N2O6
